US06090843
[6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-(2-Hydroxy-3-[3-Methylpiperidinyl]propoxy)phenyl]methanone
[6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl][4-(2-hydroxy-3-[3-methylpiperidinyl]propoxy)phenyl]methanone (540 mg, 1.0 mmol) was converted to 340 mg of the title compound by the procedure of Example 32 using 360 mg (4.9 mmol) of ethanethiol and aluminum chloride.

reactant | [6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl][4-(2-hydroxy-3-[3-methylpiperidinyl]propoxy)phenyl]methanone | 1.0 mmol, 540 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC(CN2CC(CCC2)C)O)C2=CC=C(C=C2)OC)C1 | C32H35NO5S
reactant | ethanethiol | 4.9 mmol, 360 mg | C(C)S | C2H6S
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | [6-Hydroxy-2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl][4-(2-Hydroxy-3-[3-Methylpiperidinyl]propoxy)phenyl]methanone | 340 mg, Yield: 66% | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC(CN2CC(CCC2)C)O)C2=CC=C(C=C2)O)C1 | C30H31NO5S
